US04999378
(1) Methyl 4-[3-[N-(3,4-methylenedioxyphenyl)amino]propoxy]benzoate
3,4-Methylenedioxyaniline (1.80 g), methyl 4-(3chloropropoxy)benzoate (2.0 g) and sodium bicarbonate (1.47 g) in toluene (20 ml) were heated with stirring under refluxing for 29 hours. The reaction solution was concentrated under reduced pressure, and thereto were added water and an equivalent amount of conc. hydrochloric acid, then, the resulting precipitate was collected by filtration. After washed with water, the precipitate was recrystallized from aqueous methanol to give the desired product (2.17 g). mp. 124°-127° C.

reactant | 3,4-Methylenedioxyaniline | 1.80 g | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | methyl 4-(3chloropropoxy)benzoate | 2.0 g | ClCCCOC1=CC=C(C(=O)OC)C=C1 | C11H13ClO3
reactant | sodium bicarbonate | 1.47 g | C([O-])(O)=O.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-[3-[N-(3,4-methylenedioxyphenyl)amino]propoxy]benzoate | 2.17 g | C1OC=2C=C(C=CC2O1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C18H19NO5
